US04997843
(a) ethyl 2-allylhexadecanoate
To a solution of n-butyl lithium (hexane, 0.048 mol) in 120 mL of anhydrous tetrahydrofuran at 0° C. and under argon atmosphere, diisopropylamine was added (6.8 mL, 0.048 mol). Afterwards, ethyl hexadecanoate (11.3 g, 0.04 mol) in tetrahydrofuran (15 mL) was added dropwise and the homogeneous solution was stirred for 1 h at the same temperature. Next, allyl bromide (4.0 mL, 0.048 mol) was added and the resulting mixture was stirred at room temperature for 12 h. The mixture was poured on water, extracted with ethyl acetate, dried over anhydrous sodium sulfate and the solvent evaporated to afford 11.9 g of an oil. The product was chromatographed (silica gel, hexane: ethyl acetate, 3%) to afford 8.7 g of a colorless oil (67% yield).

reactant | n-butyl lithium | 0.048 mol | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | ethyl hexadecanoate | 0.04 mol, 11.3 g | C(CCCCCCCCCCCCCCC)(=O)OCC | C18H36O2
reactant | allyl bromide | 0.048 mol, 4.0 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 2-allylhexadecanoate | 11.9 g | C(C=C)C(C(=O)OCC)CCCCCCCCCCCCCC | C21H40O2
